US05986155
A commercial nonene yielded 59% dialkylate when reacted for 10 hours with diphenylamine under the conditions of Example 1. The nonene, after passing in the vapor phase over a 75 cc catalyst bed of F-24 at 650° F. for 5 seconds, was converted to a high reactivity alkene which yielded 71% dinonyl diphenylamine under the reaction conditions of Example 1 after 10 hours reaction time.

reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | nonene | C=CCCCCCCC | C9H18
product | dinonyl diphenylamine | 71% | C(CCCCCCCC)C=1C(=C(C=CC1)NC1=CC=CC=C1)CCCCCCCCC | C30H47N
